US08071584B2
5-[4-(Cyanomethyl)phenyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
A mixture of 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (60 mg, 0.162 mmol), [4-(cyanomethyl)phenyl]boronic acid (52.0 mg, 0.323 mmol) and K2CO3 (67.0 mg, 0.485 mmol) in 1,4-dioxane (0.18 mL) and water (0.08 mL) was degassed in a Biotage microwave vial for 10 min. PdCl2(dppf) (11.83 mg, 0.016 mmol) was added, the vial sealed, and the reaction heated at 100° C. for 5 min (microwave reaction). EtOAc (3 mL) and water (1 mL) were added, the layers were separated, and the aqueous layer was extracted with EtOAc (4×2 mL). The combined organic layers were washed with saturated NaCl (1×2 mL), dried (Na2SO4), and concentrated under a stream of nitrogen at 50° C. Recovered 27 mg (42%) of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.162 mmol, 60 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | [4-(cyanomethyl)phenyl]boronic acid | 0.323 mmol, 52.0 mg | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | K2CO3 | 0.485 mmol, 67.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 0.18 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.08 mL | O | H2O
catalyst | PdCl2(dppf) | 0.016 mmol, 11.83 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 mL | O | H2O
product | 5-[4-(Cyanomethyl)phenyl]-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | C(#N)CC1=CC=C(C=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C22H21N3O3S
